US07056932B2
To a stirred solution of (RS)-hydroxy-(5-methyl-1-phenyl-1H-[1,2,4]triazol-3-yl)-acetic acid ethyl ester (1.12 g) at r.t. in toluene (30 ml) under an argon atmosphere were added silver (I) oxide (2.99 g) and ethyl iodide (1.74 ml). The mixture was heated to reflux and stirring was continued for 16 h. The solids were filtered off and washed with EtOAc. The filtrate was concentrated. The product was isolated by chromatography (silica gel, gradient cyclohexane=>EtOAc) to give (RS)-ethoxy-(5-methyl-1-phenyl-1H-[1,2,4]triazol-3-yl)-acetic acid ethyl ester (0.87 g) as orange oil. MS 290.1 ([M+H]+)

reactant | (RS)-hydroxy-(5-methyl-1-phenyl-1H-[1,2,4]triazol-3-yl)-acetic acid ethyl ester | 1.12 g | C(C)OC(C(C1=NN(C(=N1)C)C1=CC=CC=C1)O)=O | C13H15N3O3
reactant | ethyl iodide | 1.74 ml | C(C)I | C2H5I
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | silver (I) oxide | 2.99 g | [Ag-]=O
product | (RS)-ethoxy-(5-methyl-1-phenyl-1H-[1,2,4]triazol-3-yl)-acetic acid ethyl ester | 0.87 g | C(C)OC(C(C1=NN(C(=N1)C)C1=CC=CC=C1)OCC)=O | C15H19N3O3
